US08426602B2
2-Amino-6-([2-(4-chlorophenyl)-1,3-thiazol-4-yl]methylsulfanyl)-4-(1,3-thiazol-4-yl)pyridine-3,5-dicarbonitrile
90 mg (about 0.298 mmol) of 2-amino-6-sulfanyl-4-(1,3-thiazol-4-yl)pyridine-3,5-dicarbonitrile, together with 93 mg (0.382 mmol) of 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-thiazole and 88 mg (1.041 mmol) of sodium bicarbonate, were stirred in 20 ml of DMF at room temperature for 2 h. The reaction mixture was purified twice by preparative HPLC (acetonitrile/water: 10:90→95:5, 0.1% TFA added). This gave 36 mg (22% of theory) of the target compound.

reactant | 2-amino-6-sulfanyl-4-(1,3-thiazol-4-yl)pyridine-3,5-dicarbonitrile | about 0.298 mmol, 90 mg | NC1=NC(=C(C(=C1C#N)C=1N=CSC1)C#N)S | C10H5N5S2
reactant | 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-thiazole | 0.382 mmol, 93 mg | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
reactant | sodium bicarbonate | 1.041 mmol, 88 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-Amino-6-([2-(4-chlorophenyl)-1,3-thiazol-4-yl]methylsulfanyl)-4-(1,3-thiazol-4-yl)pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C=1N=CSC1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H11ClN6S3
